US04006155
5.5 Grams (0.05 mole) of thiophenol are stirred with 10.2 grams (0.05 mole) of N-(phenylthio)maleimide in 150 ml of benzene at room temperature for 1 hour. The benzene is removed from the reaction mixture by evaporation and the residue is added to 200 ml of methanol. A white solid forms upon contact with the methanol which is recovered by filtration. The solid recovered is 9.2 grams (84% yield) of phenyl disulfide. Recrystallized from methanol, the product melts sharply at 60° C.

reactant | thiophenol | 0.05 mole | C1(=CC=CC=C1)S | C6H6S
reactant | N-(phenylthio)maleimide | 0.05 mole, 10.2 grams | C1(=CC=CC=C1)SN1C(C=CC1=O)=O | C10H7NO2S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | phenyl disulfide | 9.2 grams, 84% yield | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
